US07772223B2
5-Oxo-5-(4-Phenoxypiperidin-1-yl)-2,2-Diphenylpentanenitrile
1-Hydroxybenzotriazole hydrate (5.67 g, 42 mmol) and triethylamine (14.88 mL, 107 mmol) were added to 4-cyano-4,4-diphenylbutanoic acid (WO97/24325) (10.39 g, 39 mmol) and 4-phenoxy-piperidine hydrochloride (6.32 g, 36 mmol) in N,N-dimethylformamide (150 mL). The mixture was stirred for 10 minutes. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (8.20 g, 42 mmol) was then added and the mixture was stirred at room temperature for 18 hours. The reaction mixture was then concentrated in vacuo and the residue was partitioned between ethyl acetate (100 mL) and water (100 mL). The organic layer was separated, washed with water (100 mL) and brine (30 mL), dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether, filtered off, washed through with diethyl ether and purified by column chromatography on silica gel, eluting with pentane:ethyl acetate, 75:25 to 50:50, to afford the title compound as a white solid (14.4 g) in a 95% yield.

reactant | 1-Hydroxybenzotriazole hydrate | 42 mmol, 5.67 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 107 mmol, 14.88 mL | C(C)N(CC)CC | C6H15N
reactant | 4-cyano-4,4-diphenylbutanoic acid | 39 mmol, 10.39 g | C(#N)C(CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NO2
reactant | 4-phenoxy-piperidine hydrochloride | 36 mmol, 6.32 g | Cl.O(C1=CC=CC=C1)C1CCNCC1
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 42 mmol, 8.20 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 5-Oxo-5-(4-Phenoxypiperidin-1-yl)-2,2-Diphenylpentanenitrile | 14.4 g, 95% yield | O=C(CCC(C#N)(C1=CC=CC=C1)C1=CC=CC=C1)N1CCC(CC1)OC1=CC=CC=C1 | C28H28N2O2
